.MODEL pnpt PNP()
.MODEL npnt NPN()
.MODEL mosn NMOS()
.MODEL mosp PMOS(L=30n W=2u)

.SUBCKT Diode A K
  .model diode D()
  D1 A K diode
.ENDS Diode

.model Z_2_5 d BV=2.55
.model Z_5 d BV=5.05
.model Z_x d BV=4.7

.SUBCKT Comparator IH IL OH OL
  ECMP OH OL TABLE {V(IH,IL)} = (-5mV, 0V) (5mV, 5V)
.ENDS Comparator

.SUBCKT switch 1 2 3 4
  .model switch sw vt=0.1 vh=0.05 ron=100m roff=1e12
  S1 3 4 1 2 switch OFF
.ENDS switch

.SUBCKT lltl 1 2 3 4 PARAMS: Z = 1 T=10u
  T1 1 2 3 4 Z0={Z} TD={T}
.ENDS lltl

.SUBCKT sgap 1 2
  .func R(U) U < 3000? 5:10Meg 
  R1 1 2 R(V(1))
.ENDS sgap

.SUBCKT Voltmeter 1 2 3
  B1 3 0 V=V(1 2)
  R1 1 2 1e32
  R2 3 0 1e32
.ENDS Voltmeter
